US06002008
N-{3-Cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-2-propenamide
Dissolved 500 mg (1.72 mmol) 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile in 2 ml hot DMF, added 6 ml THF, and chilled to 0° C. Added 264 μl (1.90 mmol) triethylamine and 158 μl (1.90 mmol) acryloyl chloride. Removed ice bath at 15 minutes. Stripped solvent at 2 hours. Washed residue with dilute sodium bicarbonate, collected solids, washed with water, and air dried. Boiled solids in ethyl acetate, collected and dried in vacuo, giving 288 mg of yellow-orange solid: mass spectrum (electrospray m/e): M+H=345.2.

reactant | 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile | 1.72 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC | C17H14N4O
reactant | THF | 6 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 1.90 mmol, 264 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 1.90 mmol, 158 μl | C(C=C)(=O)Cl | C3H3ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{3-Cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-2-propenamide | 288 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)OC)NC(C=C)=O | C20H16N4O2
